US08957064B2
Step 1: 5-Chloro-N,N,2-trimethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-7-amine
To 500 mg 5,7-dichloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine (prepared as described above) in 25 mL DMF were added 0.8 mL of a dimethylamine solution (60% in water). The mixture was stirred at room temperature for 45 minutes. The reaction mixture was diluted with water and dichloromethane. The phases were separated and the water layer was extracted with dichloromethane. The combined organic layers were dried over Na2SO4 and the solvent was removed by evaporation. The residue was suspended in diethylether and stirred for 5 hours. The desired product was filtered, dried and was used without further purification for the next step.

reactant | 5,7-dichloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 500 mg | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(N2)C | C12H8Cl2N4
reactant | dimethylamine | 0.8 mL | CNC | C2H7N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-N,N,2-trimethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-7-amine | ClC1=NC=2N(C(=C1C1=CC=CC=C1)N(C)C)N=C(N2)C | C14H14ClN5
